US08420821B2
Synthesis of 5-bromo-2-fluoro-4-methoxybenzoic acid chloride
Under a nitrogen atmosphere, 5-bromo-2-fluoro-4-methoxybenzoic acid (10.0 g) was suspended in DMF/toluene solution (50 mL) (DMF concentration: 300 ppm). To the suspension was added dropwise thionyl chloride (5.73 g) at 70° C. After stirring at 70° C. for 2 hr, the completion of the reaction was confirmed by HPLC. Toluene and excess thionyl chloride were evaporated under reduced pressure. To the concentrated residue was added toluene (30 mL), and the mixture was concentrated again under reduced pressure. To the obtained acid chloride (5-bromo-2-fluoro-4-methoxybenzoic acid chloride) was added toluene (30 mL), and the mixture was directly used in the next step.

reactant | 5-bromo-2-fluoro-4-methoxybenzoic acid | 10.0 g | BrC=1C(=CC(=C(C(=O)O)C1)F)OC | C8H6BrFO3
reactant | thionyl chloride | 5.73 g | S(=O)(Cl)Cl | Cl2OS
solvent | DMF toluene | 50 mL | CN(C)C=O.C1(=CC=CC=C1)C
product | 5-bromo-2-fluoro-4-methoxybenzoic acid chloride | BrC=1C(=CC(=C(C(=O)Cl)C1)F)OC | C8H5BrClFO2
